US05221685
(5) Synthesis of 2-(3-chlorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 5)
In toluene (20 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (2.0 g) and triethylamine (2.0 ml), and 3-chlorobenzoyl chloride (2.0 g) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 2.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzoyl chloride | 2.0 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chlorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | ClC=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1 | C14H5ClF10N2OS
